US05134147
2-[(3-Trifluoromethylphenyl)amino-3-pyridylmethanol
500 ml of anhydrous ethyl ether are run gently onto 26 g of lithium aluminum hydride, and 100 g of niflumic acid, dissolved in 250 ml of anhydrous tetrahydrofuran, are then added dropwise. The mixture is then brought to reflux for 3 hours. After cooling, it is hydrolyzed with 150 ml of ethyl acetate and 100 ml of saturated sodium sulfate solution. After filtration, the filtrate is concentrated to obtain the expected compound in the form of a yellow solid.

reactant | ethyl ether | 500 ml | C(C)OCC | C4H10O
reactant | lithium aluminum hydride | 26 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | niflumic acid | 100 g | C=1C=C(C=C(C1)NC2=C(C=CC=N2)C(=O)O)C(F)(F)F | C13H9F3N2O2
reactant | sodium sulfate | 100 ml | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | (3-Trifluoromethylphenyl)amino-3-pyridylmethanol | Yield: 85% | FC(C=1C=C(C=CC1)NC(O)C=1C=NC=CC1)(F)F | C13H11F3N2O
